US08067419B2
Acylation of 1-(4-benzyl-piperazin-1-yl)-(S)-2-(4-pentyl-benzylamino)-3-phenyl-propan-1-one (43.5 mg, 0.09 mmol) according to the procedure described for the preparation of Example 1 with trans-3-methoxy-cinnamic acid (17.6 mg, 0.099 mmol) gave 31.3 mg (54%) of N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-3-(3-methoxy-phenyl)-N-(4-pentyl-benzyl)-acrylamide. LC-MS: tR=1.01 min; [M+H]+=644.50.

reactant | 1-(4-benzyl-piperazin-1-yl)-(S)-2-(4-pentyl-benzylamino)-3-phenyl-propan-1-one | 0.09 mmol, 43.5 mg | C(C1=CC=CC=C1)N1CCN(CC1)C([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CCCCC)=O | C32H41N3O
reactant | trans-3-methoxy-cinnamic acid | 0.099 mmol, 17.6 mg | COC=1C=C(/C=C/C(=O)O)C=CC1 | C10H10O3
product | N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-3-(3-methoxy-phenyl)-N-(4-pentyl-benzyl)-acrylamide | 31.3 mg, 54% | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCN(CC1)CC1=CC=CC=C1)N(C(C=CC1=CC(=CC=C1)OC)=O)CC1=CC=C(C=C1)CCCCC | C42H49N3O3
